US09290485B2
b) 6-(azidomethyl)-2-methylquinoline
To a solution of (2-methyl-6-quinolinyl)methanol (100 mg, 0.560 mmol) and DBU (0.152 ml, 1.008 mmol) in DMF (4 ml) was added DPPA (0.205 ml, 0.952 mmol). The reaction mixture was stirred overnight at 23° C. Reaction mixture was poured into water and extracted twice with ethyl acetate. Organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated to afford a crude material, which was purified by silicagel chromatography (cyclohexane:ethyl acetate from 100:0 to 0:100) to afford the title compound. HPLC (Method G) Rt=1.048 min; MS (Method F) [M+H]+=199.2

reactant | (2-methyl-6-quinolinyl)methanol | 0.560 mmol, 100 mg | CC1=NC2=CC=C(C=C2C=C1)CO | C11H11NO
reactant | DBU | 1.008 mmol, 0.152 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DPPA | 0.952 mmol, 0.205 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6-(azidomethyl)-2-methylquinoline | N(=[N+]=[N-])CC=1C=C2C=CC(=NC2=CC1)C | C11H10N4
